US04197296
(Z)-3α-Hydroxy-5α-pregn-17(20)-en-11-one oxime
A solution of (Z)-3α-hydroxy-5α-pregn-17(20)-en-11-one (10.264 g) in warm industrial methylated spirits (320 ml) was heated with hydroxylamine hydrochloride (3.25 g) and sodium hydroxide (5.123 g) in water (10 ml). The mixture was refluxed for 41 hours and, after addition of more hydroxylamine hydrochloride (15.35 g) in water (20 ml) and sodium hydroxide (25.04 g) in water (50 ml) refluxing was continued for a further 6 hours. The mixture was then poured into water and the crystalline material (10.419 g) collected by filtration. Crystallisation of a portion from aqueous ethanol afforded an analytical sample of title compound m.p. 233°-235°.

reactant | (Z)-3α-hydroxy-5α-pregn-17(20)-en-11-one | 10.264 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC/C(=C/C)/[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C21H32O2
reactant | hydroxylamine hydrochloride | 3.25 g | Cl.NO
reactant | sodium hydroxide | 5.123 g | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 15.35 g | Cl.NO
reactant | sodium hydroxide | 25.04 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | (Z)-3α-Hydroxy-5α-pregn-17(20)-en-11-one oxime | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC/C(=C/C)/[C@]4(CC([C@@H]3[C@]2(CC1)C)=NO)C | C21H33NO2
